US07157487B2
(Step 4) Synthesis of methyl 3-benzyloxy-5-methoxy-4-nitrophenoxyacetate
In DMF (10 ml), 3-benzyloxy-5-methoxy-4-nitrophenol (1.43 g, 5.20 mmol), potassium carbonate (1.08 g, 7.79 mmol) and methyl bromoacetate (591 μl, 6.24 mmol) were stirred at room temperature for 2 days. The reaction mixture was poured in water (200 ml), followed by extraction with ether (200 ml). The extract was washed with saturated brine (200 ml), dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from chloroform-ethyl acetate (20:1) eluate fractions, the title compound (1.53 g, 85%) was obtained as a yellow crystalline solid.

reactant | 3-benzyloxy-5-methoxy-4-nitrophenol | 5.20 mmol, 1.43 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1[N+](=O)[O-])OC)O | C14H13NO5
reactant | potassium carbonate | 7.79 mmol, 1.08 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 6.24 mmol, 591 μl | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 200 ml | O | H2O
product | methyl 3-benzyloxy-5-methoxy-4-nitrophenoxyacetate | 1.53 g, 85% | C(C1=CC=CC=C1)OC=1C=C(OCC(=O)OC)C=C(C1[N+](=O)[O-])OC | C17H17NO7
